2156-09-29 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2156-9-28**] 10:15 AM
 ULTRASOUND - At [**2156-9-28**] 11:30 AM
 URINE CULTURE - At [**2156-9-28**] 01:03 PM
 PARACENTESIS - At [**2156-9-28**] 06:35 PM
   Needs confirmation of code status
   Coumadin held (for INR >3)
   Radiology reported patent portal vein per previous ultrasound
   Cingulair stopped
   Libral hydration and albumin for hypotension, with mild effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-29**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 79 (69 - 114) bpm
   BP: 83/44(54) {83/41(51) - 120/88(95)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  7,135 mL
                                                                  1,725 mL
   PO:
                                                                    660 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  5,767 mL
                                                                  1,317 mL
   Blood products:
                                                                    208 mL
                                                                    208 mL
   Total out:
                                                                  1,030 mL
                                                                    520 mL
   Urine:
                                                                    580 mL
                                                                     20 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  6,105 mL
                                                                  1,205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///32/
   Physical Examination
   GEN: resting comfortably, jaundiced, in no distress
   HEENT: PERRL, EOMI, icteric scleral, mildly injected
   Neck supple, nontender, no bruits,
   Oropharynx: sublingual jaundice, poor dentition
   PULM:  decreased BS on RLL, crackles at bases bilaterally, R>L, mild
   wheezes anteriorly. Able to speak comfortably in full sentence, no use
   of excessory muscles.
   CARD: tachycardic, s1, s2, wnl, no murmurs rubs or gallops
   ABD: obese, distended, vericosities, TTP RUQ, no rebound, no guarding,
   hepatomegally by percussion.
   EXT: radial pulses 2+, dorsalis pedis 1+
   NEURO: CNII-XIIintact, strength 5/5 upper and lower.
   Labs / Radiology
   209 K/uL
   8.8 g/dL
   120 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.1 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   27.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2156-9-28**]  04:20 AM
                             [**2156-9-28**]  05:21 AM
                             [**2156-9-28**]  10:10 AM
                             [**2156-9-28**]  03:39 PM
                             [**2156-9-29**]  03:49 AM
   WBC
   9.0
   7.5
   Hct
   29.3
   27.4
   Plt
   202
   209
   Cr
   0.8
   0.9
   0.9
   1.1
   TropT
   <0.01
   TCO2
   38
   Glucose
   111
   103
   104
   120
   Other labs: PT / PTT / INR:25.3/37.8/2.5, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:50/158, Alk Phos / T Bili:247/7.2,
   Amylase / Lipase:/31, Differential-Neuts:78.5 %, Lymph:13.9 %, Mono:4.5
   %, Eos:2.7 %, Lactic Acid:1.6 mmol/L, LDH:312 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: CEs: negarive
   Imaging: LENI: No DVT in either lower extremity.
   ECHO: Suboptimal image quality. Mild left ventricular hypertrophy with
   preserved systolic function. Probable right ventricular dilation with
   borderline normal function.
   Assessment and Plan
   62 yo M w hx of afib and COPD, w 1 week diarrhea, jaudice, worsening
   SOB, and found to have PE and abnormal LFTs and right-sided colitis.
   # HYPOTENSION
   - Consider midodrine?
   # PE: Consistent w/ worsening of baseline resp status, dyspnea on
   exertion and SOB, however, with INR of 3, is unlikely to have formed
   new PE, ? old PE, ?mixing artifact.
   - No specific therapy as pt is already anticoagulated to a therapeutic
   range on coumadin.
   - Consider eval for hypercoaguable states, ? malignancy
   - f/u final read of CT-PA and CXR
   # Dyspnea: pt w/ baseline SOB, on O2 at home, unknown amount. Now w/
   increasing SOB, possibly [**2-7**] to PE, but differential includes CHF, MI,
   PNA, COPD exacerbation, restrictive ascites.
   - Pt satting well, breathing comfortably, continue to monitor
   - check BNP
   - consider ECHO for signs of R-heart failure, ? secondary to PE
   - home meds for COPD/ASTHMA
   - pt w/ HTN, on lasix, w/o hx of known CHF, eval for diastolic heart
   failure w/ECHO as above; continue home dose for now and consider
   diuresis pending further work-up
   - cycle CEs and repeat EKG
   # Diarrhea/Vomiting/Jaundice: diarrhea w/o abd pain, fever, chills,
   less likely to be infection though could still be c-diff, viral gastro,
   or other. Jaundice, elevated ALKP, suggest obstructive process, but US
   showed no biliary dilation. AST/ALT ration also fits acute alcoholic
   hepatitis, but is low, so could be cirrhotic picture.
   -check c-diff
   -f/u final read of u/s
   - f/u final read of CT-scan
   - consider ERCP or HIDA scan
   - consider ABX if develops fevers, or new info from CTs.
   - holding hepatotoxic meds
   # Tachycardia: has afib at baseline, though not sure when he is in or
   out of it. Most likely fast rate from missing his home doses of
   medications. Sepsis/Pain could worsen tachycardia,but pt is
   comfortable, no pain, no fever, no leukocytosis.
   - restart home meds (Dilt, Sotalol)
   - reassess tomorrow and monitor on tele
   # COPD/asthma- pt with worsening SOB, but no acute exacerbation, and
   not in any distress. Small amount of wheezing on exam
   - continue home meds
   # HTN - Well controlled on home meds. Will continue home meds, and
   either treat nausea for POs or adjust to IV as needed for appropriate
   BP control.
   # Code status - DNR/DNI per patient records, needs to be confirmed w/
   patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-9-28**] 01:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-30 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2156-9-29**] 03:30 PM
   Pressures to the 60s despite starting midodrine/octreotide.
   Liver did not feel this is HRS but patient should rather be treated as
   sepsis.
   Only [**1-9**] cultures + coag negative staph. Re-cultured for surveillence.
   Low urine output.
   CPAP on overnight. Slept most of the night.
   Added sliding scale for hyperglycemia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-29**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 78 (78 - 89) bpm
   BP: 98/65(73) {83/40(51) - 107/83(89)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
           Total In:
                                                                  7,904 mL
                                                                    134 mL
   PO:
                                                                  1,400 mL
           TF:
   IVF:
                                                                  6,162 mL
                                                                     84 mL
   Blood products:
                                                                    342 mL
                                                                     50 mL
   Total out:
                                                                  1,375 mL
                                                                    340 mL
   Urine:
                                                                    175 mL
                                                                    140 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  6,529 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN: resting comfortably, jaundiced, in no distress
   HEENT: PERRL, EOMI, icteric scleral, mildly injected
   Neck supple, nontender, no bruits,
   Oropharynx: sublingual jaundice, poor dentition
   PULM:  decreased BS on RLL, crackles at bases bilaterally, R>L, mild
   wheezes anteriorly. Able to speak comfortably in full sentence, no use
   of excessory muscles.
   CARD: tachycardic, s1, s2, wnl, no murmurs rubs or gallops
   ABD: obese, distended, vericosities, TTP RUQ, no rebound, no guarding,
   hepatomegally by percussion.
   EXT: radial pulses 2+, dorsalis pedis 1+
   NEURO: CNII-XIIintact, strength 5/5 upper and lower.
   Labs / Radiology
   231 K/uL
   8.8 g/dL
   114 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   28.1 %
   7.9 K/uL
        [image002.jpg]
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
                             [**2156-9-28**]  04:20 AM
                             [**2156-9-28**]  05:21 AM
                             [**2156-9-28**]  10:10 AM
                             [**2156-9-28**]  03:39 PM
                             [**2156-9-29**]  03:49 AM
                             [**2156-9-29**]  05:16 PM
                             [**2156-9-30**]  02:58 AM
   WBC
   9.0
   7.5
   7.9
   Hct
   29.3
   27.4
   28.1
   Plt
   [**Telephone/Fax (3) 5599**]
   Cr
   0.8
   0.9
   0.9
   1.1
   1.3
   1.5
   TropT
   <0.01
   TCO2
   38
   Glucose
   111
   103
   104
   120
   118
   114
   Other labs:
   PT / PTT / INR:23.5/34.5/2.3,
   ALT / AST:41/124, Alk Phos / T Bili:192/5.3, Amylase / Lipase:/37,
   Albumin:2.7 g/dL, LDH:291 IU/L,
   Urine:
   Color Brown  Appear Cloudy  SpecGr 1.025  pH  5.0  Urobil 1  Bili Lg
   Leuk Neg  Bld Lg  Nitr Pos  Prot 100  Glu 100  Ket 15   RBC 254  WBC
   39  Bact Many  Yeast None  Epi 0
   CastHy: 264  CastBr: 132 Mucous: Many
   U Na 17, Osm 388, FeNa 0.04%
   Microbiology: HBV/HCV neg
   Blood, Urine, Stool no new growth
   [**9-27**] blood culture with coag (-) staph
   Radiology:
   CT ABD/PEL (Final read)
   1. Interval development of moderate-to-large abdominal ascites.
   2. Tiny filling defect in the subsegmental branches of the posterior
   segment of the left lower lobe, compatible with acute PE.
   3. Left greater than right basal patchy opacities, as well as bronchial
   wall thickening and minimal post-inflammatory, bronchiectasis,
   persistent in changes since the prior study, mean reflect recurrent
   aspiration, infectious causes are also in the differential.
   4. Fatty liver. Limited evaluation for focal liver lesions.
   Questionable focus of increased attenuation in the posterior right
   lower lobe, as there is clinical concern; MRI with gadolinium could be
   performed.
   5. 13 mm nodular density in the lingula, 3 months follow up is
   recommended.
   Assessment and Plan
   62 yo M w hx of afib and COPD, w 1 week diarrhea, jaudice, worsening
   SOB, and found to have PE and abnormal LFTs and right-sided colitis.
   # Hypotension
  Sepsis remains a possible cause of hypotension,
   however coag-neg staph in blood culture is likely contaminant.
   Afebrile with normal WBC.  Lungs are a possible source of infection.
   Ascietes were clear.  Not HRS but similar physiology.  Cortisol
   appropriate.  Lactate normal.
   - Repeat Chest CT.  Sputum culture.  Would treat evidence of PNA with
   Unasyn and Vanc.
   - Stop Vanco 1gm for now as no evidence/source of infection
   - Spin urine sediment, urine lytes and eos.
   - Stop octreotide but continue midodrine, 25% albumin tx.
   - Will discuss further liver w/u with GI
   .
   # ARF
 rising creatinine with muddy brown casts on sediment consistent
   with ATN, likely from hypotension/borderline hepatorenal syndrome.  Has
   rising cr and pressures that are poorly responsive to IVF.  Patient was
   previously hypertensive so current MAPs are far lower than what the
   kidneys are accustomed to.
   - continue to keep pressures up.
   - follow Cr
   - renally dose meds as necessary
   .
   Diarrhea /Jaundice: Normal abdominal imaging. AST/ALT ratio also fits
   acute alcoholic hepatitis, but is low, so could be cirrhotic picture,
   especially given poor synthetic function and jaundice.
   - f/u final read of CT-scan
   - discuss if further workup required per hepatiology
   - holding hepatotoxic meds
   .
    # PE: Consistent w/ worsening of baseline resp status, dyspnea on
   exertion and SOB, however, with INR of 3, is unlikely to have formed
   new PE, ? old PE, ?mixing artifact.  No clots on LENIs.  Lung findings
   could also represent septic emboli.
   - No specific therapy as pt is already anticoagulated to a therapeutic
   range on coumadin.  Holding coumadin now
   - Will start heparin for INR < 2.
   - f/u final read of CT-PA and CXR
   .
   # Dyspnea: This is mild to resolved, suspect mostly due to chronic
   COPD.  Echo without evidence of CHF.
   - Continue nebulizers PRN
   .
   # Afib/tachycardia: stable.
   - hold Dilt, Sotalol
   - reassess tomorrow and monitor on tele
   # COPD/asthma- pt with worsening SOB, but no acute exacerbation, and
   not in any distress. Small amount of wheezing on exam
   - continue home meds
   # FEN/GI:  Lytes PRN, Will replete albumin as above.
   # PPX: therapeutic INR, diarrhea
   # Code status
 Full code
   # Dispo: MICU pending stabilization
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-9-28**] 01:41 AM
   Arterial Line - [**2156-9-29**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-10-01 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Chest CT
   Desaturated to 50s and hypotensive to SBP in 70s while sleeping, placed
   on CPAP, continued to desat to 70s and remained hypotensive. Head of
   bed raised to 30 degrees, and BP and O2 sats improved to 90s to 110s
   SBP and sats in 90s.
   Continued to desat periodically into high 80s when sleeping, but
   maintained SBPs in the 80s-90s overnight.
   Cortisol stim test- normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-1**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 75 (67 - 87) bpm
   BP: 103/63(72) {84/41(50) - 113/73(111)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
             Total In:
                                                                  1,372 mL
                                                                     63 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                    452 mL
                                                                     63 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    740 mL
                                                                    140 mL
   Urine:
                                                                    540 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: 2L NC to RA
   SpO2: 97%
   ABG: 7.36/51/81.[**Numeric Identifier 253**]/28/1
   Physical Examination
   GEN: resting comfortably, jaundiced, in no distress
   HEENT: PERRL, EOMI, icteric scleral, mildly injected
   Neck supple, nontender, no bruits,
   Oropharynx: sublingual jaundice, poor dentition
   PULM:  decreased BS on RLL, crackles at bases bilaterally, R>L, mild
   wheezes anteriorly. Able to speak comfortably in full sentence, no use
   of excessory muscles.
   CARD: tachycardic, s1, s2, wnl, no murmurs rubs or gallops
   ABD: obese, distended, vericosities, TTP RUQ, no rebound, no guarding,
   hepatomegally by percussion.
   EXT: radial pulses 2+, dorsalis pedis 1+
   NEURO: CNII-XIIintact, strength 5/5 upper and lower.
   Labs / Radiology
   263 K/uL
   9.2 g/dL
   150 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.7 mEq/L
   19 mg/dL
   103 mEq/L
   137 mEq/L
   28.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2156-9-28**]  03:39 PM
                             [**2156-9-29**]  03:49 AM
                             [**2156-9-29**]  05:16 PM
                             [**2156-9-30**]  02:58 AM
                             [**2156-9-30**]  12:35 PM
                             [**2156-9-30**]  03:40 PM
                             [**2156-9-30**]  08:57 PM
                             [**2156-9-30**]  10:04 PM
                             [**2156-9-30**]  10:15 PM
                             [**2156-10-1**]  02:09 AM
   WBC
   7.5
   7.9
   8.2
   Hct
   27.4
   28.1
   28.5
   Plt
   [**Telephone/Fax (3) 5628**]
   Cr
   0.9
   1.1
   1.3
   1.5
   1.5
   1.5
   1.6
   1.6
   TCO2
   29
   30
   Glucose
   104
   120
   118
   114
   150
   150
   Other labs: PT / PTT / INR:21.9/32.2/2.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:42/137, Alk Phos / T Bili:184/6.3,
   Amylase / Lipase:/46, Differential-Neuts:73.5 %, Lymph:19.7 %, Mono:3.8
   %, Eos:2.6 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL, LDH:291 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Micro:
   Blood/Urine (x2)/Ascites cultures: NG; UA with 254 RBC, 29 WBC.
   Radiology:  (CT chest)
   1. Increased moderate bilateral pleural effusion with bibasilar
   alveolar opacities, mostly on the left, atelectasis versus pneumonia.
   2. Mild bibasilar areas of bronchiectasis and bronchial wall
   thickening  suggest peribronchial inflammation.
   3. Lingular atelectasis without suspicious lesion for neoplasia.
   4. Severe fatty liver and ascites.
   5. Bilateral gynecomastia.
   Assessment and Plan
   62 yo M w hx of afib and COPD, w 1 week diarrhea, jaundice, worsening
   SOB, and found to have PE and abnormal LFTs and right-sided colitis.
   # Hypoxia
 Currently with normal saturation on room air.  Effusion on
   CT suggestive of volume overload.
   - Currently no evidence of pneumonia.  Hold on antibiotics
   - goal to keep pressures elevated and avoid excess IVF (goal even to
   slightly negative)
   - would not tap as unlikely to be infected
   # Possible UTI: 39 WBC on sediment, but likely related ATN.  Culture
   negative, Afebrile, no white count, no evidence of UTI on exam.
   - D/C macrobid
   - follow cultures
   # Hypotension
  Likely a combination of dehydration from diarrhea and
   decreased forward flow from liver dysfunction.  Sepsis remains a
   possible cause of hypotension, however coag-neg staph in blood culture
   is likely contaminant.  Afebrile with normal WBC.  Lungs generally
   clear by CT.  Ascietes were clear.  Not HRS but similar physiology.
   Cortisol appropriate.  Lactate normal.
   - Hold on antibiotics as no evidence of infection
   - Continue midodrine, 25% albumin tx.
   - follow lactate
   - IV thiamine
   .
   # ARF
 rising creatinine with muddy brown casts on sediment consistent
   with ATN, likely from hypotension/borderline hepatorenal syndrome.  Has
   rising cr and pressures that are poorly responsive to IVF.  Patient was
   previously hypertensive so current MAPs are far lower than what the
   kidneys are accustomed to.
   - continue to keep pressures up.
   - follow Cr
   - renally dose meds as necessary
   .
   Diarrhea /Jaundice: Normal abdominal imaging. AST/ALT ratio also fits
   acute alcoholic hepatitis, but is low, so could be cirrhotic picture,
   especially given poor synthetic function and jaundice.
   - further workup per hepatiology
   - holding hepatotoxic meds
   .
    # PE: Consistent w/ worsening of baseline resp status, dyspnea on
   exertion and SOB, however, with INR of 3, is unlikely to have formed
   new PE, ? old PE, ?mixing artifact.  Clots not significiant enough to
   explain hypotension.  No clots on LENIs.  Lung findings could also
   represent septic emboli.
   - No specific therapy as pt is already anticoagulated to a therapeutic
   range on coumadin.
   - Will start heparin for INR < 2.
   - Outpatient follow up for suspicious lung lesion on CT
   .
   # Dyspnea: This is mild to resolved, suspect mostly due to chronic
   COPD.  Echo without evidence of CHF.
   - Continue nebulizers PRN
   .
   # Afib/tachycardia: stable.
   - hold Dilt, Sotalol
   - reassess tomorrow and monitor on tele
   # COPD/asthma- pt with worsening SOB, but no acute exacerbation, and
   not in any distress. Small amount of wheezing on exam
   - continue home meds
   # FEN/GI:  Lytes PRN, Will replete albumin as above.
   # PPX: therapeutic INR, diarrhea
   # Code status
 Full code
   # Dispo: MICU pending stabilization
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-9-28**] 01:41 AM
   Arterial Line - [**2156-9-29**] 03:30 PM
   20 Gauge - [**2156-9-30**] 10:52 PM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer: Not indicated
   VAP:  Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Would watch overnight

2156-10-02 04:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Surveillance cultures sent.
   Slightly above I/O goal.  Lasix not given for borderline blood
   pressures
   Reports feeling well this am, no acute events or complaints. Denies
   pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2156-10-1**] 09:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-2**] 04:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 74 (67 - 85) bpm
   BP: 109/60(71) {71/44(49) - 131/74(88)} mmHg
   RR: 20 (15 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
                  Total In:
                                                                  1,120 mL
                  PO:
                                                                  1,040 mL
                  TF:
   IVF:
                                                                     80 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    145 mL
   Urine:
                                                                    740 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 98%
   Physical Examination
   GEN: resting comfortably, in no distress
   HEENT: PERRL, EOMI, mildly icteric scleral, injected conjunctiva
   Neck supple, nontender, no bruits,
   Oropharynx: sublingual jaundice, poor dentition
   PULM:  CTA b/l, decreased air movement throughout. Able to speak
   comfortably in full sentence, no use of excessory muscles.
   CARD: RRR, s1, s2, wnl, no murmurs rubs or gallops
   ABD: obese, distended, varicosities, TTP RUQ, no rebound, no guarding.
   EXT: radial pulses 2+, dorsalis pedis 1+
   NEURO: CNII-XIIintact, strength 5/5 upper and lower.
   Labs / Radiology
   263 K/uL
   9.2 g/dL
   150 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.7 mEq/L
   19 mg/dL
   103 mEq/L
   137 mEq/L
   28.5 %
   8.2 K/uL
        [image002.jpg]
   New lab data reviewed
                             [**2156-9-28**]  03:39 PM
                             [**2156-9-29**]  03:49 AM
                             [**2156-9-29**]  05:16 PM
                             [**2156-9-30**]  02:58 AM
                             [**2156-9-30**]  12:35 PM
                             [**2156-9-30**]  03:40 PM
                             [**2156-9-30**]  08:57 PM
                             [**2156-9-30**]  10:04 PM
                             [**2156-9-30**]  10:15 PM
                             [**2156-10-1**]  02:09 AM
   WBC
   7.5
   7.9
   8.2
   Hct
   27.4
   28.1
   28.5
   Plt
   [**Telephone/Fax (3) 5628**]
   Cr
   0.9
   1.1
   1.3
   1.5
   1.5
   1.5
   1.6
   1.6
   TCO2
   29
   30
   Glucose
   104
   120
   118
   114
   150
   150
   Other labs: PT / PTT / INR:21.9/32.2/2.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:42/137, Alk Phos / T Bili:184/6.3,
   Amylase / Lipase:/46, Differential-Neuts:73.5 %, Lymph:19.7 %, Mono:3.8
   %, Eos:2.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:291 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   62 yo M w hx of afib and COPD, w 1 week diarrhea, jaundice, worsening
   SOB, and found to have PE, abnormal LFTs, right-sided colitis and ATN.
   # Renal failure: 39 WBC, many muddy brown casts on sediment, but likely
   related ATN.  Culture negative, Afebrile, no white count, no evidence
   of UTI on exam. Stable for the past day. Baseline 0.9.
   -          follow daily creatinine
   -          would avoid aggressive diuresis in the setting of ? unstable
   renal function
   # Hypotension
  Likely [**2-7**] to dehydration in setting of severe
   diarrhea along with decompensation of liver disease. Improved since
   admission but  still somewhat tenuous.
   - Hold off on diuresis
   - Hold on antibiotics as no evidence of infection
   - Continue midodrine
   .
   # Jaundice/Liver disease: Normal abdominal imaging. AST/ALT ratio also
   fits acute alcoholic hepatitis, but is low, so could be cirrhotic
   picture, especially given poor synthetic function and jaundice. Appears
   eu to somewhat hypervolemic today with peripheral edema on exam and CXR
   with effusion. CT abdomen notable for area of increased density in
   liver.
   - further workup per hepatology to include outpatient MRI to further
   characterize abnormal area within liver.
   - holding hepatotoxic meds
   - clinical exams to eval fluid status
   .
   #. Diarrhea: Persists but improving, likely viral etiology.
   -          replete fluids prn
   -          monitor
   -          follow up any remaining stool studies
   .
    # PE: Consistent w/ worsening of baseline resp status, dyspnea on
   exertion and SOB, however, with INR of 3, is unlikely to have formed
   new PE, ? old PE, ?mixing artifact.  Clots not significiant enough to
   explain hypotension.  No clots on LENIs.  Lung findings could also
   represent septic emboli.
   - No specific therapy as pt is already anticoagulated to a therapeutic
   range on coumadin.
   - Will start heparin for INR < 2.
   - Outpatient follow up for suspicious lung lesion on CT
   .
   # Afib/tachycardia: stable.
   - hold Dilt, Sotalol
   - reassess tomorrow and monitor on tele
   # COPD/asthma- O2 sats in upper 90s on 6L with CPAP overnight as at
   home.
   - continue home regimen along with nebs
   # FEN/GI:  Lytes PRN, consider diuresis once BPs are stable for another
   day.
   # PPX: therapeutic INR, diarrhea, PT c/s
   # Code status
 Full code
   # Dispo: call out today
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 62M COPD, HTN, heavy EtOH, PAF on coumadin
   p/w respiratory distress, palpitations, diarrhea, light stools and
   jaundice. CT chest with b/l effusions and pulmonary edema.
   Exam notable for:
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 74 (67 - 85) bpm
   BP: 109/60(71) {71/44(49) - 131/74(88)} mmHg
   RR: 20 (15 - 36) insp/min
   SpO2: 98%
   Obese male, NAD
   CV RRR s1s2
   Lungs
   Abd soft bs+
   Ext no edema
   Labs notable for WBC 8.2, HCT 28.5, K+ 4.7, Cr 1.6, bicarb 28.
   Hemodyn improved.  agree w/ cont midodrine and hold off on further
   volume loading.
   Liver disease
 exact nature still requires workup.  Liver following
   for outpt MRI to further characterize.
   resume coumadin for AF/PE. On CPAP overnight. Remainder of plan as
   outlined above.
   Renal failure
 creat stable.  Presumed ATN
   Diarrhea
 improving but not yet resolved.  f/u remaining cx data.
   Resp/COPD - sats in 90s on 6L.  CPAPovernight.  Cont outpt regimen
   Called out to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2156-10-2**] 02:32 PM ------